US05790627
1-Hydroxy-2-(2-hydroxyphenylazo)benzene
2-Hydroxy-1-(2-hydroxy-4-sulfo-1-naphthylazo)-3,6-naphthalenedisulfonic acid, trisodium salt

reactant | 2-Hydroxy-1-(2-hydroxy-4-sulfo-1-naphthylazo)-3,6-naphthalenedisulfonic acid | OC1=C(C2=CC=C(C=C2C=C1S(=O)(=O)O)S(=O)(=O)O)N=NC1=C(C=C(C2=CC=CC=C12)S(=O)(=O)O)O | C20H14N2O11S3
reactant | trisodium salt | C1=CC(=CC=C1N=NC2C(=NN(C2=O)C3=CC=C(C=C3)S(=O)(=O)[O-])C(=O)[O-])S(=O)(=O)[O-].[Na+].[Na+].[Na+]
product | 1-Hydroxy-2-(2-hydroxyphenylazo)benzene | OC1=C(C=CC=C1)N=NC1=C(C=CC=C1)O | C12H10N2O2
